US09085827B2
The bromobenzene may then be converted to phenols by a reaction with a sodium hydroxide solution, similar to the hydrolysis of chlorobenzene, with NaOH under pressure. In addition, bromobenzene may be reacted with nitric acid to form p-nitro-bromobenzene, which can then be converted after several other chemical processing steps to p-methoxyphenol. Other chemicals may be produced using bromobenzene as a raw starting material.

reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
reactant | sodium hydroxide | [OH-].[Na+]
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | p-nitro-bromobenzene | [N+](=O)([O-])C1=CC=C(C=C1)Br | C6H4BrNO2
